US04963543
To a solution of (2S,4R)-2-[3-(4-nitrobenzyloxycarbonyl)amino-2-hydroxypropyl]thiomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.24 g) in dichloromethane (40 ml) were added pyridine (0.52 ml) and acetyl chloride (0.46 ml) under ice-cooling with stirring. The mixture was stirred at the same temperature for 1 hour. The reaction mixture was washed with water, saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride, in turn, dried over anhydrous magnesium sulfate, and evaporated in vacuo to give (2S,4R)-2-[2-acetoxy-3-(4-nitrobenzyloxycarbonyl)aminopropyl]thiomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.37 g).

reactant | (2S,4R)-2-[3-(4-nitrobenzyloxycarbonyl)amino-2-hydroxypropyl]thiomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.24 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(CSC[C@H]2N(C[C@@H](C2)O[Si](C)(C)C(C)(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])O)C=C1 | C30H42N4O10SSi
reactant | pyridine | 0.52 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.46 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (2S,4R)-2-[2-acetoxy-3-(4-nitrobenzyloxycarbonyl)aminopropyl]thiomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.37 g | C(C)(=O)OC(CSC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H44N4O11SSi
